US07005443B1
Step B: 2-Methyl-propionic acid 3-(2-(9 fluorenylmethoxycarbonylamino)propyl)-1H-indazol-5-yl ester
To a solution of 3-(2-(9-fluorenylmethoxycarbonylamino)propyl)-1H-indazol-5-ol (0.17 g, 0.41 mmol) and diisopropylehtylamine (0.06 g, 0.50 mmol), in methylene chloride (10 mL) cooled at 0° C. is added 2-methylpropionyl chloride (0.05 g, 0.5 mmol) followed by 4-dimethylaminopyridine (0.05 g, 0.40 mmol). The reaction allowed to warm to room temperature and then is stirred at room temperature. The reaction mixture is added to dilute aqueous sodium bicarbonate and extracted with ether. The combined ether extracts are washed, dried (MgSO4) and concentrated. The residue is purified by chromatography.

reactant | 3-(2-(9-fluorenylmethoxycarbonylamino)propyl)-1H-indazol-5-ol | 0.41 mmol, 0.17 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(CC1=NNC2=CC=C(C=C12)O)C | C25H23N3O3
reactant | diisopropylehtylamine | 0.50 mmol, 0.06 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methylpropionyl chloride | 0.5 mmol, 0.05 g | CC(C(=O)Cl)C | C4H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.40 mmol, 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Methyl-propionic acid 3-(2-(9 fluorenylmethoxycarbonylamino)propyl)-1H-indazol-5-yl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(CC1=NNC2=CC=C(C=C12)OC(C(C)C)=O)C | C29H29N3O4
